US04772600
Under a nitrogen atmosphere, triethylamine (14.9 g, 0.148 mole) and 4-nitrobenzoyl chloride (27.5 g, 0.148 mole) in tetrahydrofuran (25 ml) were added simultaneously (dropwise) to a stirred and chilled (5°-10° C.) solution of freshly prepared N-(3-amino-2-pyridinyl)glycine ethyl ester (0.14 mole), obtained by 5% palladium on carbon hydrogenation of N-(3-nitro-2-pyridinyl)glycine ethyl ester at room temperature, in dry tetrahydrofuran (140 ml). The reaction mixture was stirred at room temperature under nitrogen overnight and the solvent was evaporated under reduced pressure. The resulting solid was triturated in water (200 ml) and saturated sodium bicarbonate solution (200 ml). The solid was filtered off, rinsed with water and dried under vacuum at 50° C. to give 50.5 g (95%) of yellow solid. A 2.0-g sample was recrystallized from isopropyl alcohol to give 1.5 g of yellow solid, mp. 151°-154° C.

reactant | triethylamine | 0.148 mole, 14.9 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 0.148 mole, 27.5 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | N-(3-amino-2-pyridinyl)glycine ethyl ester | 0.14 mole | C(C)OC(CNC1=NC=CC=C1N)=O | C9H13N3O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | N-(3-nitro-2-pyridinyl)glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
